US06013662
By carrying out the reaction as in Stage C of Example 45, but from 1.2 g of methyl(3aRS,4SR,7aRS)-2-benzyl-7-iodo-4-phenyl-2,3,3a,4,5,7a-hexahydro-1H-isoindole-3a-carboxylate in 30 cm3 of toluene, from 150 mg of tetrakis(triphenylphosphine)palladium, from 0.35 g of 3-thienylboronic acid in 15 cm3 of methanol and from 28 cm3 of a 2N aqueous sodium carbonate solution at reflux for three hours, 0.99 g (93%) of methyl(3aRS,4SR,7aRS)-2-benzyl-4-phenyl-7-(3-thienyl)-2,3,3a,4,5,7a-hexahydro-1H-isoindole-3a-carboxylate was obtained, after purification by flash chromatography on silica gel (230-400 mesh), elution being carried out with a mixture of cyclohexane and ethyl acetate (85/15 by volume), in the form of a yellow oil, the characteristic of which was as follows:

reactant | methyl(3aRS,4SR,7aRS)-2-benzyl-7-iodo-4-phenyl-2,3,3a,4,5,7a-hexahydro-1H-isoindole-3a-carboxylate | 1.2 g | COC(=O)C12CN(CC2C(=CCC1C1=CC=CC=C1)I)CC1=CC=CC=C1 | C23H24INO2
reactant | 3-thienylboronic acid | 0.35 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 2N | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 30 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 15 cm3 | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium | 150 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl(3aRS,4SR,7aRS)-2-benzyl-4-phenyl-7-(3-thienyl)-2,3,3a,4,5,7a-hexahydro-1H-isoindole-3a-carboxylate | 0.99 g, 93% | COC(=O)C12CN(CC2C(=CCC1C1=CC=CC=C1)C1=CSC=C1)CC1=CC=CC=C1 | C27H27NO2S
